US08008440B2
A solution of di-tert-butyl dicarbonate (382.8 g, 1.75 mol) in dichloromethane (1.6 L) was added to 3-amino-1-propanol (263.6 g, 3.51 mol) during 2 h. The reaction mixture was stirred for an additional 40 min and water (1 L) was added. The organic phase was washed with water (3×500 mL),), dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 3-(tert-butoxycarbonylamino)-1-propanol in 96% yield.

reactant | di-tert-butyl dicarbonate | 1.75 mol, 382.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-amino-1-propanol | 3.51 mol, 263.6 g | NCCCO | C3H9NO
reactant | water | 1 L | O | H2O
solvent | dichloromethane | 1.6 L | ClCCl | CH2Cl2
product | 3-(tert-butoxycarbonylamino)-1-propanol | 96% yield | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
